US04870219
320 mg of p-[2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]aniline are dissolved in 5 ml of acetonitrile and treated at room temperature with 440 mg of acetaldehyde and 190 mg of sodium cyanoborohydride. After 30 minutes the mixture is adjusted to a pH of 6-7 by the addition of acetic acid and 440 mg of acetaldehyde are again added thereto. After stirring at room temperature for 2 hours the reaction mixture is poured into ice-water, made alkaline by the addition of 2N potassium hydroxide solution and extracted with ether. The brownish oil obtained after drying and evaporation of the organic solvent is filtered over silica gel (elution agent hexane/ethyl acetate 9:1) and recrystallized from hexane. There are obtained 280 mg of N,N-diethyl-p-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-propenyl]aniline in colourless crystals, melting point 89°-90°.

reactant | p-[2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]aniline | 320 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=CC1=CC=C(N)C=C1)C)C | C23H29N
reactant | acetaldehyde | 440 mg | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 190 mg | C(#N)[BH3-].[Na+]
reactant | acetaldehyde | 440 mg | C(C)=O | C2H4O
reactant | potassium hydroxide | 2N | [OH-].[K+]
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N,N-diethyl-p-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-propenyl]aniline | 280 mg | C(C)N(C1=CC=C(C=C1)\C=C(/C)\C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)CC | C27H37N
